US04234587
3.4 g (0.05 mol) of 50% strength hydrogen peroxide were added to a solution of 14.2 g (0.05 mol) of N,N-dimethyl-carbamic acid O-(2-methylthiomethyl-5-iso-propyl-6-methyl-pyrimidin-4-yl) ester in 50 ml of glacial acetic acid at 5°-10° C. The mixture was subsequently stirred at room temperature for 6 hours and the solvent was then distilled off in vacuo. The residue was dissolved in 100 ml of methylene chloride and the methylene chloride solution was washed with a solution of 10 g of potassium carbonate in 15 ml of water. The organic phase was separated off and dried over sodium sulphate. The solvent was then distilled off in vacuo. 11 g (74% of theory) of N,N-dimethyl-carbamic acid O-(2-methylsulphinylmethyl-5-iso-propyl-6-methyl-pyrimidin-4-yl) ester were thus obtained in the form of beige crystals with a melting point of 80° C.

reactant | hydrogen peroxide | OO | H2O2
reactant | N,N-dimethyl-carbamic acid O-(2-methylthiomethyl-5-iso-propyl-6-methyl-pyrimidin-4-yl) ester | 0.05 mol, 14.2 g | CSCC1=NC(=C(C(=N1)OC(N(C)C)=O)C(C)C)C | C13H21N3O2S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-carbamic acid O-(2-methylsulphinylmethyl-5-iso-propyl-6-methyl-pyrimidin-4-yl) ester | 11 g, 74% | CS(=O)CC1=NC(=C(C(=N1)OC(N(C)C)=O)C(C)C)C | C13H21N3O3S
